US07745451B2
B. N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (1.5 g, 3.9 mmol) was dissolved in methanol (25 mL) and palladium hydroxide was added (1.5 g, 20% wt). The mixture was shaken on a Parr Shaker under H2(g) atmosphere (60 PSI) for 3 days. The mixture was filtered through celite and evaporated to give 1.0 g of material as a yellow solid (87%), which was used as such for the next step.

reactant | 6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 3.9 mmol, 1.5 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)C(F)(F)F)CC1 | C21H19F3N4
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 1.0 g, 87% | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CCNC2)(F)F | C14H13F3N4
